US07375126B2
N-(5-tert-butyl-2,3-dihydro-1H-inden-1-yl)-N′-5-isoquinolinylurea
5-tert-Butyl-2,3-dihydro-1H-inden-1-ylamine (150 mg, 1.13 mmol) in diethyl ether (10 mL) was treated with 5-isocyanatoisoquinoline in diethyl ether. The mixture was stirred for 2 hours, filtered, and the filter cake was washed with diethyl ether to provide the title compound. NMR (DMSO-d6) 1.29 (s, 9H), 1.78-1.90 (m, 1H), 2.43-2.54 (m, 1H, buried under DMSO), 2.76-3.05 (m, 2H), 5.19 (m, 1H), 7.27 (m, 2H), 7.31 (m, 1H), 7.43 (d, 1H), 7.89 (t, 1H), 8.05 (d, 1H), 8.63 (d, 1H), 8.69 (d, 1H), 9.33 (s, 1H), 9.73 (s, 1H); MS (ESI+) 360 (M+H)+; Elemental: Calculated for C23H25N3O.HCl.0.5H2O: C68.22, H6.72, N10.38; Found: C68.31, H6.81, N10.16

reactant | 5-tert-Butyl-2,3-dihydro-1H-inden-1-ylamine | 1.13 mmol, 150 mg | C(C)(C)(C)C=1C=C2CCC(C2=CC1)N | C13H19N
reactant | 5-isocyanatoisoquinoline | N(=C=O)C1=C2C=CN=CC2=CC=C1 | C10H6N2O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | N-(5-tert-butyl-2,3-dihydro-1H-inden-1-yl)-N′-5-isoquinolinylurea | C(C)(C)(C)C=1C=C2CCC(C2=CC1)NC(=O)NC1=C2C=CN=CC2=CC=C1 | C23H25N3O
